US05342846
5-Amino-7-[cis-3-amino-4-(1,2,3-triazol-1-yl)-pyrrolidin -1-yl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo -quinoline-3-carboxylic acid
Prepared by following the same procedure as described for Example 17 by using 5-amino-1-cyclopropyl -6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid and cis-3-amino-4-(1,2,3-triazol-1-yl)pyrrolidine. Yield: 65%, m.p. 275°-277° C. 1H NMR (TFA) δ: 1.33-1.50 (m, 4H), 4.32-5.12 (m, 6H), 6.34 (m, 1H), 8.64 (s, 1H), 8.89 (s, 1H), 9.16 (s, 1H).

reactant | 5-amino-1-cyclopropyl -6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | cis-3-amino-4-(1,2,3-triazol-1-yl)pyrrolidine | N[C@@H]1CNC[C@@H]1N1N=NC=C1 | C6H11N5
product | 5-Amino-7-[cis-3-amino-4-(1,2,3-triazol-1-yl)-pyrrolidin -1-yl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo -quinoline-3-carboxylic acid | Yield: 65% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1C[C@H]([C@H](C1)N1N=NC=C1)N)F)C1CC1)C(=O)O)=O | C19H19F2N7O3
